US08865713B2
Step A: N-(3-Fluoro-4-trifluoromethyl-phenyl)-acetamide.
To a mixture of 3-fluoro-4-trifluoromethyl-phenylamine (16.9 g, 92.6 mmol), N,N-dimethyl-4-aminopyridine (1.13 g, 9.26 mmol), and toluene (230 mL) was added acetic anhydride (13.1 mL, 0.139 mol). The reaction mixture was heated at reflux for 3 h, and stirred at 23° C. for 16 h. The reaction mixture was concentrated and the crude product was dissolved in EtOAc (100 mL). The organic layer was washed with water (40 mL) and brine (40 mL), dried, filtered, and concentrated under reduced pressure. The crude solid was triturated from DCM/hexanes to yield the titled compound (16.5 g, 81% yield). MS (ESI/CI): mass calcd. for C9H7F4NO, 221.1; m/z found, 222.0 [M+H]+. 1H NMR (400 MHz, CDCl3): 7.68 (d, J=12.5 Hz, 1H), 7.52 (t, J=8.3 Hz, 1H), 7.45 (br s, 1H), 7.19 (d, J=8.5 Hz, 1H), 2.22 (s, 3H).

reactant | 3-fluoro-4-trifluoromethyl-phenylamine | 92.6 mmol, 16.9 g | FC=1C=C(C=CC1C(F)(F)F)N | C7H5F4N
reactant | acetic anhydride | 0.139 mol, 13.1 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | N,N-dimethyl-4-aminopyridine | 9.26 mmol, 1.13 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | toluene | 230 mL | C1(=CC=CC=C1)C | C7H8
product | N-(3-Fluoro-4-trifluoromethyl-phenyl)-acetamide | 16.5 g, 81% yield | FC=1C=C(C=CC1C(F)(F)F)NC(C)=O | C9H7F4NO
